US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-2-[1-(2-carbamoylpyridin-4-yl)piperidin-4-ylmethylamino]benzamide
A pressure tube was charged with N-(5-chloropyridin-2-yl)-2-[[1-(3-methoxycarbonylpyridin-4-yl)piperidin-4-ylmethyl]amino]benzamide (50 mg, 0.10 mmol) and 2 N ammonia in methanol (5 mL), sealed, and placed in a 110° C. bath. After 4 h, the mixture was transferred to a 60° C. bath. After 3 days, the mixture was cooled, concentrated, and the residue purified by column chromatography (SiO2, 2% methanol in methylene chloride) affording 48 mg (96%) of the title compound.

reactant | N-(5-chloropyridin-2-yl)-2-[[1-(3-methoxycarbonylpyridin-4-yl)piperidin-4-ylmethyl]amino]benzamide | 0.10 mmol, 50 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NCC1CCN(CC1)C1=C(C=NC=C1)C(=O)OC)=O | C25H26ClN5O3
reactant | ammonia | 2 N | N | H3N
reactant | methanol | 5 mL | CO | CH4O
product | N-(5-Chloropyridin-2-yl)-2-[1-(2-carbamoylpyridin-4-yl)piperidin-4-ylmethylamino]benzamide | 48 mg, 96% | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NCC1CCN(CC1)C1=CC(=NC=C1)C(N)=O)=O | C24H25ClN6O2
